US07074817B2
1-Benzyl-5-bromo-1H-indole
The title compound was prepared from 5-bromoindole (5.02 g, 25.6 mmol) and benzyl bromide (6.7 mL, 56 mmol), following the procedure described in Step 1 of Example 5. Purification by flash chromatography on Biotage apparatus using hexane as an eluant yielded 1-benzyl-5-bromo-1H-indole as a white solid (5.69 g, 78%), mp 93-95° C. Mass spectrum (+ESI, [M+H]+) m/z 286; 1HNMR (500 MHz, DMSO-d6): δ 7.7 (d, 1H, J=1.8 Hz), 7.55 (d, 1H, J=3.1 Hz), 7.4 (d, 1H, J=8.7 Hz), 7.15-7.30 (m, 6H), 6.45 (dd, 1H, J=3.2 Hz and 0.6 Hz), and 5.45 ppm (s, 2H).

reactant | 5-bromoindole | 25.6 mmol, 5.02 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | benzyl bromide | 56 mmol, 6.7 mL | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-benzyl-5-bromo-1H-indole | 5.69 g, 78% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)Br | C15H12BrN
